US06080752
cis-7-Methoxy-1,2,3,4,4a5,6,10b-octahydrobenzo[f]quinoline 1-Chloroethylchloroformate (4.62 ml, 42.8 mmol) was added with stirring to an ice cooled solution of cis-and trans-7-methoxy-4-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinoline (4.3 g, 18.6 mmol) in dichloromethane (140 ml). The mixture was allowed to warm to room temperature and stirred for a further 2 h. Diisopropylethylamine (4.9 ml, 28 mmol) was added and the mixture heated at reflux for 1 h. The mixture was cooled and concentrated in vacuo before dissolving in methanol (100 ml) and refluxing for 1 h. After cooling, the solvent was removed and the residue partitioned between saturated aqueous K2CO3 (50 ml) and dichloromethane (3×50 ml). The combined organic extracts were washed with brine (50 ml), dried (Na2SO4) and the solvent evaporated to afford a yellow oil. Chromatography on silica using 10% methanol-dichloromethane and 6.6 ml/L 0.880 ammonia as eluent gave trans 7-methoxy-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinoline (0.6 g, 30%) as the first eluting isomer.

reactant | trans-7-methoxy-4-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinoline | 18.6 mmol, 4.3 g | COC1=CC=CC=2[C@@H]3CCCN([C@H]3CCC21)C | C15H21NO
reactant | Diisopropylethylamine | 28 mmol, 4.9 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
solvent | ammonia | N | H3N
product | trans 7-methoxy-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinoline | 0.6 g, 30% | COC1=CC=CC=2[C@@H]3CCCN[C@H]3CCC21 | C14H19NO
